US09353108B2
K) Methyl 6-(1-((6-cyclopropyl-3-ethoxy-2,4′-difluorobiphenyl-4-yl)methyl)piperidin-4-yl)-2-ethyl-5-oxo-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate
Triethylamine (3.84 g) was added to a suspension of methyl 2-ethyl-5-oxo-6-(piperidin-4-yl)-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate dihydrochloride (7.41 g) in THF (90 mL) and DMA (30 mL) at room temperature. After being stirred at the same temperature for 30 minutes, 6-cyclopropyl-3-ethoxy-2,4′-difluorobiphenyl-4-carbaldehyde (6.89 g) was added to the reaction mixture. The mixture was stirred at room temperature under nitrogen atmosphere for 30 minutes. Sodium triacetoxyhydroborate (6.04 g) and acetic acid (1.141 g) were added to the reaction mixture at room temperature. The mixture was stirred at the same temperature under nitrogen atmosphere for 60 hours. The mixture was quenched with aqueous saturated sodium hydrogen carbonate solution at room temperature and extracted with ethyl acetate. The organic layer was separated, washed with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was purified by a silica gel column chromatography (ethyl acetate/methanol) to give the title compound (7.17 g).

reactant | Triethylamine | 3.84 g | C(C)N(CC)CC | C6H15N
reactant | methyl 2-ethyl-5-oxo-6-(piperidin-4-yl)-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate dihydrochloride | 7.41 g | Cl.Cl.C(C)C1=NC=2CCN(C(C2C=C1C(=O)OC)=O)C1CCNCC1
reactant | 6-cyclopropyl-3-ethoxy-2,4′-difluorobiphenyl-4-carbaldehyde | 6.89 g | C1(CC1)C1=CC(=C(C(=C1C1=CC=C(C=C1)F)F)OCC)C=O | C18H16F2O2
reactant | Sodium | [Na] | Na
solvent | THF | 90 mL | C1CCOC1 | C4H8O
solvent | DMA | 30 mL | CC(=O)N(C)C | C4H9NO
solvent | acetic acid | 1.141 g | C(C)(=O)O | C2H4O2
product | Methyl 6-(1-((6-cyclopropyl-3-ethoxy-2,4′-difluorobiphenyl-4-yl)methyl)piperidin-4-yl)-2-ethyl-5-oxo-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate | 7.17 g | C1(CC1)C1=CC(=C(C(=C1C1=CC=C(C=C1)F)F)OCC)CN1CCC(CC1)N1C(C=2C=C(C(=NC2CC1)CC)C(=O)OC)=O | C35H39F2N3O4
